US08580859B2
To solid (S)-tert-butyl 1-(hydroxyamino)-4-(methylthio)-1-oxobutan-2-ylcarbamate (0.33 g, 1.25 mmol) was added 4 N HCl in dioxane (2 mL, 8 mmol). The mixture was stirred at room temperature for one hour, and concentrated. The residue was triturated with ether, and dried to provide 1-Hydroxycarbamoyl-3-methylsulfanyl-propyl-amine hydrochloride (S)-2-amino-N-hydroxy-4-(methylthio)butanamide hydrochloride (0.18 g, 80%). MS calcd for (C5H12N2O2S—H)+: 163.1; MS found: (M−H)+=163.0

reactant | (S)-tert-butyl 1-(hydroxyamino)-4-(methylthio)-1-oxobutan-2-ylcarbamate | 1.25 mmol, 0.33 g | ONC([C@H](CCSC)NC(OC(C)(C)C)=O)=O | C10H20N2O4S
reactant | HCl | 4 N | Cl | ClH
reactant | dioxane | 8 mmol, 2 mL | O1CCOCC1 | C4H8O2
product | 1-Hydroxycarbamoyl-3-methylsulfanyl-propyl-amine hydrochloride (S)-2-amino-N-hydroxy-4-(methylthio)butanamide hydrochloride | 0.18 g, 80% | Cl.N[C@H](C(=O)NO)CCSC.Cl.ONC(=O)C(CCSC)N | InChI=1S/2C5H12N2O2S.2ClH/c2*1-10-3-2-4(6)5(8)7-9;;/h2*4,9H,2-3,6H2,1H3,(H,7,8);2*1H/t4-;;;/m0.../s1
